US04639522
At first, 4.2 g of 60% sodium hydride was suspended in 200 ml of tetrahydrofuran, and then a solution of 18.9 g of 1-benzyl-4-piperidone and 17.9 g of methyl iodide dissolved in 20 ml of tetrahydrofuran was added dropwise to the suspension at room temperature over 5 minutes. Thereafter, the mixture was heated to 60° C. and stirred for 5 hours. Thereafter, the reaction mixture was filtered. The filtrate was concentrated, and then the concentrate was poured into 150 ml of water and extracted with 120 ml portions of ethyl acetate three times. The extract was washed with 150 ml of brine, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 21.6 g of an oily matter. The oily matter was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=2:1 V/V) to obtain 8.0 g of 1-benzyl-3-methyl-4-piperidone.

reactant | sodium hydride | 4.2 g | [H-].[Na+]
reactant | 1-benzyl-4-piperidone | 18.9 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | methyl iodide | 17.9 g | CI | CH3I
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-benzyl-3-methyl-4-piperidone | 8.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
